US07153676B1
A 1-mL aliquot of each soluble enzyme preparation was incubated with 2-debenzoyl-7,13-diacetylbaccatin III (500 μM) and [7-14C]benzoyl coenzyme A (500 μM, 9.3 μCi) for 1.5 hours at 31° C. The reaction mixtures were extracted with ether (2 mL), and the organic phases were removed and concentrated in vacuo. The resulting crude products of the assay were dissolved in acetonitrile (50 μL) and analyzed by radio-HPLC using a Perkin Elmer HPLC ISS 200 coupled to a PACKARD RADIOMATIC™ radioactivity detector series A100 (Canberra, Ind., Meriden, Conn.) (see FIGS. 12A and 12B for a representative chromatogram). The samples were separated on a VYDAC™ (Hesperia, Calif.) C18 column (5μ 250×4.6 mm) by elution at 1 mL/min with a linear gradient starting from 30:70 CH3CN:H2O to 60:40 CH3CN:H2O over 30 minutes, then to 100% CH3CN with a linear gradient over 5 minutes, held at 100% CH3CN for 5 minutes, and, finally, returned to the initial conditions over 5 minutes. A detected biosynthetic product absorbing at A228 and possessing a coincidental radioactivity response with the same retention time as authentic 7,13-diacetylbaccatin III directed efforts towards large-scale preparation (4 L) of the enzyme expressed from a single E. coli JM109 transformant bearing the clone designated TAX2. The product generated by large-scale preparation of the putative TAX2 (SEQ ID NO: 26) benzoyl transferase (˜50μg) was analyzed by combined liquid chromatography-mass spectrometry (LC-MS) using a HEWLETT-PACKARD™ Series 1100 MSD in the atmospheric pressure chemical ionization (APCI) mode. The sample, dissolved in acetonitrile (200 μL), was loaded (5 μL) onto a PHENOMENEX™ (Torrance, Calif.) CUROSIL-G™ column (5μ 250×4.6 mm) that was eluted at 1 mL/minute with 30:70 CH3CN:H2O for 5 minutes, increased linearly to 80:20 CH3CN:H2O over 55 minutes, and then held for 5 minutes (with return to initial conditions over 0.1 minutes and equilibration for 10 minutes). The column effluent was directed to the APCI inlet of the mass spectrometer for analysis (see FIG. 13A for a representative spectrum). Additional enzymatic product (˜500 μg) was purified by silica gel TLC (ethyl acetate:hexane, 60:40, v/v). The band co-migrating with authentic 7,13-diacetylbaccatin III (Rf=0.33) was isolated, dissolved in 0.5 mL deuterated chloroform as internal standard, and analyzed by proton nuclear magnetic resonance spectroscopy (1H-NMR) using a VARIAN™ MERCURY™ 300 instrument.

reactant | 2-debenzoyl-7,13-diacetylbaccatin III | 500 μM | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)O)(CO4)OC(=O)C)OC(=O)C)C)OC(=O)C | C28H38O12
solvent | acetonitrile | 200 μL | C(C)#N | C2H3N
product | 7,13-diacetylbaccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)OC(=O)C)C)OC(=O)C | C35H42O13
